US06881842B2
Synthesis of 8-[3-(1-acetyl-4-piperidinyl)-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinoline-4-one
A mixture of 2.5 kg of 1-acetyl-4-piperidinepropionic acid, 2.17 kg (1 equivalent) of 1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinoline-4-one and 26.0 kg of polyphosphoric acid was stirred at about 105° C. for 8 hours under nitrogen and 13 L of cold water at about 5° C. was slowly added dropwise thereto while maintaining about 70° C. Further, 25 L of a mixture of toluene-acetonitrile (1:1) was added at about 55° C. and pH was adjusted to about 8.5 by adding 25% aqueous ammonia solution (about 50 L) while maintaining about 55° C. The layers were separated, 10 L of a mixture of toluene-acetonitrile (1:1) was added to the aqueous layer, and the layers were separated. The organic layers were combined and concentrated to a volume of the solution of about 10 L. To the residue was added 9 L of isopropyl ether at about 20° C. to precipitate crystals. The mixture was stirred at about 20° C. for about 1.5 hours and then at about 5° C. for about 1.5 hours. Precipitated crystals were separated, washed with about 6 L of a mixture of isopropyl ether-ethyl acetate (1:1) cooled to about 5° C., and 10 L of isopropyl ether cooled to about 5° C., and dried to obtain 3.78 kg (yield 85%) of the desired compound as crystals.

reactant | 1-acetyl-4-piperidinepropionic acid | 2.5 kg | C(C)(=O)N1CCC(CC1)CCC(=O)O | C10H17NO3
reactant | 1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinoline-4-one | 2.17 kg, 1 equivalent | C1CN2C(CCC3=CC=CC1=C23)=O | C11H11NO
reactant | toluene-acetonitrile | C=1(C(=CC=CC1)CC#N)C | C9H9N
reactant | ammonia | about 50 L | N | H3N
solvent | water | 13 L | O | H2O
product | 8-[3-(1-acetyl-4-piperidinyl)-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinoline-4-one | 3.78 kg, yield 85% | C(C)(=O)N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C21H26N2O3
